US08211919B2
To a mixture of 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide (5.03 g) in tetrahydrofuran (100.6 ml) was added 1N hydrochloric acid (16.5 mL) at ambient temperature and stirred at ambient temperature for 1 hour. Tetrahydrofuran (300 mL) was added to the mixture and the mixture was cooled with ice bath stirring for 20 minutes. The crystals were collected by filtration and washed with ethyl acetate (50 mL) to afford 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide hydrochloride (5.00 g) as yellow crystals.

reactant | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide | 5.03 g | N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C19H17N3O
reactant | hydrochloric acid | 1N, 16.5 mL | Cl | ClH
solvent | tetrahydrofuran | 100.6 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide hydrochloride | 5.00 g | Cl.N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | InChI=1S/C19H17N3O.ClH/c23-19(14-21-17-4-2-1-3-5-17)22-18-8-6-15(7-9-18)16-10-12-20-13-11-16;/h1-13,21H,14H2,(H,22,23);1H
